US09263682B2
Mix 2.80 g (8.77 mmol) of 3,6-diphenylcarbazole, 22.18 g (87.7 mmol) of 1-bromo-3-iodine benzene, 0.279 g of copper powder, and 4.85 g of potassium carbonate; heat the mixture at 190° C. for nine hours in nitrogen atmosphere followed by cooling down to room temperature; next, dilute the mixture with methylene chloride followed by water-washing and drying to obtain pale brown liquid; furthermore, refine the resultant with silica gel column chromatography using a liquid mixture of methylene chloride and hexane as an eluting solution to obtain 3.59 g of 9-(3-bromophenyl)-3,6-diphenyl carbazole; add 3.20 g (6.75 mmol) of the thus obtained 9-(3-bromophenyl)-3,6-diphenyl carbazole, 1.54 g (10.1 mmol) of 3-methoxyphenyl boronic acid, and 0.124 g of tetrakis(triphenyl phosphine)palladium to a liquid mixture of 30 ml of toluene and 10 ml of ethanol; add an aqueous solution in which 37.3 g of sodium carbonate is dissolved in 90 ml of distilled water to the mixture; reflux the mixture for nine hours while heating in nitrogen atmosphere followed by cooling down to room temperature; next, dilute the mixture with methylene chloride; remove insoluble matters by filtration; wash the organic layer with water for separation; distill away the solvent under a reduced pressure; and furthermore, refine the resultant with silica gel column chromatography using a liquid mixture of methylene chloride and hexane as an eluting solution to obtain 2.89 g of [3′-(3,6-diphenylcarbazole-9-yl)biphenyl-3-yloxy]methane; and prepare 8-[3′-(3,6-diphenylcarbazole-9-yl)biphenyl-3-yloxy]octane-1-thiol (C-4) (hereinafter referred to as carbazole derivative 7) represented by the chemical structure 13 in the same manner as in preparation of Carbazole Derivative 1 except that the thus obtained [3′-(3,6-diphenylcarbazole-9-yl)biphenyl-3-yloxy]methane is used instead of 3,6-bis(5-methylthiophene-2-yl)-9-(4-methoxyphenyl)carbazole (B-2).

reactant | 9-(3-bromophenyl)-3,6-diphenyl carbazole | BrC=1C=C(C=CC1)N1C2=CC=C(C=C2C=2C=C(C=CC12)C1=CC=CC=C1)C1=CC=CC=C1 | C30H20BrN
reactant | 3-methoxyphenyl boronic acid | 10.1 mmol, 1.54 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 37.3 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 90 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | [3′-(3,6-diphenylcarbazole-9-yl)biphenyl-3-yloxy]methane | 2.89 g | C1(=CC=CC=C1)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C1=CC=CC=C1)C=1C=C(C=CC1)C1=CC(=CC=C1)OC | C37H27NO
